US06469188B1
norbornylcyclopentadiene.
A solution of norbornylfulvene (14.37 g, 90.8 mmol) dissolved in 100 mL tetrahydrofuran was cooled to 0° C. before LiAlH4 (5.00 g, 132 mmol) was added over 2 minutes. After stirring at room temperature for 17 hours, the reaction was cooled to 0° C. and 100 mL water were added dropwise over 1 hour. Then, 200 mL water/50 mL concentrated aqueous HCl and 100 mL diethyl ether were added. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (3×50 mL). The organic layers were dried over MgSO4, filtered, and rotavapped to provide the crude product as a light yellow oil in quantitative yield.

reactant | norbornylfulvene | 90.8 mmol, 14.37 g | C12(CCC(CC1)C2)C2=CC=CC2=C | C13H16
reactant | LiAlH4 | 132 mmol, 5.00 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 100 mL | O | H2O
reactant | water | 200 mL | O | H2O
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | norbornylcyclopentadiene | quantitative yield | C12(CCC(CC1)C2)C2=CC=CC2 | C12H16
